Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ampicillin
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
Date: ___

Time: 1722
_
________________________________________________________________

PCP: Name: ___ 
___: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 
.
_
________________________________________________________________
HPI:
___ year old female with depression, family h/o colon cancer, h/o 
recurrent polyps with yearly colonoscopies. She had a 
colonoscopy in ___ which revealed a sessile polyp. She 
returned on ___ to have the polyp removed. She is s/p 
___ with polypectomy of a 10mm sessile polyp in the 
ascending colon as well as a 7mm sessile polyp in the transverse 
colon. Now p/w moderate to severe RLQ pain and passing large 
blood clots per rectum. 3 clots last night, 7 this AM, some 
dizziness. HCT on presentation 36.4/11.6, baseline per atrius 
records: 40/13.6.
Immediately after the procedure she felt well but then developed 
RLQ pain. She then had an explosion of maroon stool. She then 
passed clots the following morning and this morning. Yesterday 
am and this am she also passed maroon clots. +___ with standing. 
No syncope. No cp, sob, n/v. Abdominal pain improved with 
Tylenol. She currently experiences ___ RLQ pain. She developed 
R groin pain and had a CT scan as an o/p which revealed a L 
adnexal cyst. She will have an US next ___. Prior to the 
colonoscopy she felt fine apart from this. 
.
In ER: (Triage Vitals:
8 |98.1 |72 |155/69 | 18 |100% RA  ) 
Meds Given: No medications or IVF given \
Radiology Studies: abdominal CT scan
consults called: GI through the ED dashbaord
.

===============================================
REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  As per HPI
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
Menopause 
Family history of colon cancer 
Condyloma acuminatum 
fh of breast cancer in mother 
History of basal cell carcinoma 
Psoriasis 
Depressive disorder 
Vitamin D deficiency 
Macrocytosis 
Knee pain 
Renal cyst, left 

 
Social History:
___
Family History:
Brother  CAD/PVD - Early; Hypertension 
Father  CAD/PVD; Cancer; Diabetes - Type II; Hypertension; Psych 
- Depression 
Mother  CAD/PVD; Cancer - Breast; Cancer - Colon; Cancer - 
Melanoma; Diabetes - Type II; Hypertension; Mother still alive 
at ___. 

 
Physical Exam:
Vitals:  97.4 PO 115 / 54 70 18 99 RA  
CONS: NAD, comfortable appearing, very pleasant  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, ND, mild tenderness in RLQ without no guarding or 
rebound  
RECTUM: one particle of melena/a speck otherwise her vault is 
empty
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
Ambulated with pt who ambulates independently without 
difficulty. 
PSYCH: calm, cooperative 
 

 
Pertinent Results:
___ 09:30AM   GLUCOSE-97 UREA N-12 CREAT-0.7 SODIUM-138 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-24 ANION GAP-17
___ 09:30AM   estGFR-Using this
___ 09:30AM   ALT(SGPT)-19 AST(SGOT)-25 ALK PHOS-71 TOT 
BILI-0.3
___ 09:30AM   LIPASE-26
___ 09:30AM   ALBUMIN-4.2
___ 09:30AM   WBC-5.2 RBC-3.45* HGB-11.6 HCT-36.4 MCV-106*# 
MCH-33.6* MCHC-31.9* RDW-12.7 RDWSD-49.1*
___ 09:30AM   NEUTS-58.9 ___ MONOS-9.6 EOS-3.8 
BASOS-0.8 IM ___ AbsNeut-3.06 AbsLymp-1.39 AbsMono-0.50 
AbsEos-0.20 AbsBaso-0.04
___ 09:30AM   PLT COUNT-210
___ 09:30AM   ___ PTT-32.6 ___
___ 09:10AM URINE  HOURS-RANDOM
___ 09:10AM URINE  HOURS-RANDOM
___ 09:10AM URINE  UHOLD-HOLD
___ 09:10AM URINE  GR HOLD-HOLD
___ 09:10AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 09:10AM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 09:10AM URINE  MUCOUS-RARE
====================================
Single sessile 10 mm polyp was found in the ascending colon 
polyp. A single-piece polypectomy was performed using a hot 
snare. The polyp was completely removed. A single sessile 7 mm 
polyp was found in the transverse colon A single-piece 
polypectomy was performed using a hot snare. The polyp was 
completely removed. Small internal hemorrhoids were noted on 
retroflexion. The hepatic flexure was carefully inspected. There 
was no evidence of residual polyp tissue. 
Impression: •A single sessile 10 mm polyp was found in the 
ascending colon polyp.  
•A single-piece polypectomy was performed using a hot snare. The 
polyp was completely removed.  
•A single sessile 7 mm polyp was found in the transverse colon A 
single-piece polypectomy was performed using a hot snare. The 
polyp was completely removed. 
• Small internal hemorrhoids were noted on retroflexion  
•The hepatic flexure was carefully inspected. There was no 
evidence of residual polyp tissue. 
•Otherwise normal colonoscopy to cecum
==========================
Recommendations: •Clear liquid diet when awake, then advance 
diet as tolerated. 
•If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___. 
•Follow up with pathology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results. 
•Repeat colonoscopy with Dr. ___ in ___ years 
•Restart ASA in 5 days
==============================
IMPRESSION: 
1. No acute intraabdominal process. 
2. 1.6 cm left adnexal cystic structure, which should be 
followed up with a pelvic ultrasound in a postmenopausal female. 

RECOMMENDATION(S):  Pelvic ultrasound is recommended. 

 
Brief Hospital Course:
MEDICAL DECISION MAKING/Assessment

The patient is a ___ year old female with depression, family h/o 
colon cancer, h/o recurrent colon polyp who p/w post polypectomy 
bleeding.
.
BRBPR
ABDOMINAL PAIN
The patient's presentation was most consistent with a post 
polypectomy bleed. She was monitored for twelve hours and did 
not have any more bleeding. She did not have any more light 
headeadness. Her abdominal CT scan was reassuring. She ate two 
meals. Her rectal vault was empty of stool x 2. Her Hgb remained 
stable from 11.6 -> 11.___nough to drive home. He 
husband will be at home.  She had stopped taking a baby aspirin 
3 days prior to the procedure and was asked to hold off on 
resuming this before checking in with Dr. ___. She 
was concerned about her co-pay as an observation admission. She 
attempted to call her insurance company to find out but no one 
was available. O/C CM was contacted and was not able to let us 
know the cost. The author also attempted to verify that the 
patient was observation but at that time CM had already left for 
the day. Given her clinical stability, reassuring CT scan 
results and stable Hgb as well as her close location to the 
hospital and her reliability as a patient she was discharged 
home. D/w ERCP team prior to discharge. Pt given a PPx for a HCT 
check in her PCP's office on ___. She knows to contact Dr. 
___ me with any concerns overnight. Her telemetry 
demonstrated sinus rhythm wth HR = 60s without any alarms. 
.
DEPRESSION:
-Continue Effexor
.
L ADNEXAL CYST:
L renal cyst was seen on imaging on ___. On admission 
abdominal CT a L adnexal cyst was seen. She is scheduled to have 
an US on ___. The results of this report were reviewed 
with Ms ___ and she was given a copy of the report. 
.
R groin pain:
- present prior to admission improving, which prompted her o/p 
CT scan. She has an abdominal US as scheduled. 
.
Pain: APAP prn 
.
FEN: [ X]Oral   [ ]Tube feeds  [ ]Parenteral [] NPO 
.
DVT PROPHYLAXIS: [ ]Pharmacological  [X] Mechanical  [X] 
Ambulation

Lines and drains: [X]Periphera [ ]CVL _____ days(s) [ ]PICC   
____day(s) []Foley day(s)

DISPOSITION: [ X] Home- tonight. Driving home and husband at 
home.    [ ] Rehab   [ ] SNF [] Hospice

Code Status: FULL CODE d/w pt on admission

I have discussed this case and plan with [X]patient []family 
[]housestaff []RN []Case Management []Social Work 
[X]consultants- advanced endoscopy []I will notify []I have 
notified PCP about this admission.
.

Total visit time __90____ minutes. Total time spent on 
counseling/ coordinating care _60_____ minutes.

.
> 30 mins spent d/c planning. 

Attending Physician ___: ______________________________ .
___, MD ___

 
Medications on Admission:
PEG 3350-Electrolytes-Vit C 100-7.5-2.691 gram Powder in Packet 
Use as directed. 
 EFFEXOR TABLET 75MG PO (VENLAFAXINE HCL) 
She was taking ASA 81 mg up to 3 ___.

 
Discharge Medications:
1.  Venlafaxine XR 75 mg PO DAILY  
2.Outpatient Lab Work
Please have your Hgb/HCT check on ___. Results to Name: 
___ 
Location: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
1. Post polypectomy bleed
SECONDARY DIAGNOSIS
1. Colonic polyps
2. Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, it was a pleasure caring for you. You were 
admitted with bleeding after your colonoscopy on ___ during 
which two polyps were removed. You had a little bit of light 
headedness. You were monitored and this resolved. You ate two 
meals and felt well. Your HCT was repeated and your hemoglobin 
was stable. Given your request to avoid an observation co-pay 
and your clinical stability you were discharged. ___ was d/w 
Drs ___ and they were also comfortable with you 
being discharged home. If you have any concerns at all please 
feel free to page Dr. ___ at pager number  ___. 
 
Followup Instructions:
___